US07125896B2
c) 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)aniline
N-[4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl]acetamide (17.48 g), 35% hydrochloric acid (100 ml) and water (100 ml) were heated at 95° C. for 2 h, evaporated to near dryness, water (100 ml) added and the pH adjusted to 8 with sodium carbonate. Extraction with dichloromethane (3×200 ml), the combined organic phase washed with water, brine, dried (MgSO4) and evaporated to give the product as a solid (13.64 g).

reactant | N-[4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl]acetamide | 17.48 g | BrC1=C(C=C(C=C1)NC(C)=O)OCCN1CCCCC1 | C15H21BrN2O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)aniline | 13.64 g | BrC1=C(C=C(N)C=C1)OCCN1CCCCC1 | C13H19BrN2O
